US08895313B2
2-(3-Methoxy-4-nitrophenyl)-6-methoxybenzothiazole
A thoroughly mixed paste of 2-amino-5-methoxybenzenethiol (2.0 g, 12.88 mmol) and 3-methoxy-4-nitrobenzoic acid (2.54 g, 12.88 mmol) in trimethylsilylpolyphosphate (10 ml) was stirred and heated at 150° C. under an atmosphere of argon for 2 h. On cooling to room temperature, the reaction mixture was suspended in DCM (300 ml) and adsorbed onto flash silica and initially purified using a plug of flash silica eluting with DCM, then DCM/EtOAc (6:1). Further purification of the collected fractions by flash chromatography (20:1 DCM/Hexane) gave the title compound (1.32 g, 32%) as a yellow solid.

reactant | 2-amino-5-methoxybenzenethiol | 12.88 mmol, 2.0 g | NC1=C(C=C(C=C1)OC)S | C7H9NOS
reactant | 3-methoxy-4-nitrobenzoic acid | 12.88 mmol, 2.54 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Methoxy-4-nitrophenyl)-6-methoxybenzothiazole | 1.32 g, 32% | COC=1C=C(C=CC1[N+](=O)[O-])C=1SC2=C(N1)C=CC(=C2)OC | C15H12N2O4S
